US08497383B2
Step 7 tert-Butyl (3R*,4S*)-3-(3-hydroxypropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate
To a mixture of tert-butyl (3R*,4S*)-3-(3-hydroxypropyl)-4-{[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate (0.82 g, 1.91 mmol) and 1-bromo-3-methylbutane (0.30 g, 2.0 mmol) in 8 mL DMF, Cs2CO3 (0.93 g, 2.86 mmol) was added and the mixture was stirred at 3.5 hours at 85° C. The mixture was diluted with H2O, extracted with CH2Cl2, the combined organic extracts were dried with Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel eluting with 1→5% MeOH in CH2Cl2 giving the title compound.

reactant | tert-butyl (3R*,4S*)-3-(3-hydroxypropyl)-4-{[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate | 1.91 mmol, 0.82 g | OCCC[C@@H]1CN(C[C@H]1NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C18H27N3O7S
reactant | 1-bromo-3-methylbutane | 2.0 mmol, 0.30 g | BrCCC(C)C | C5H11Br
reactant | Cs2CO3 | 2.86 mmol, 0.93 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | tert-Butyl (3R*,4S*)-3-(3-hydroxypropyl)-4-{(3-methylbutyl)[(4-nitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate | OCCC[C@@H]1CN(C[C@H]1N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCC(C)C)C(=O)OC(C)(C)C | C23H37N3O7S
